US07402595B2
6-chloro-4-hydroxy-2-(4-methoxycarbonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized according to the method shown in Reference Example 8 and using 4-chloro phthalic anhydride and 4-(aminomethyl)benzoic acid methyl ester hydrochloride.

reactant | 4-chloro phthalic anhydride | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | 4-(aminomethyl)benzoic acid methyl ester hydrochloride | Cl.COC(C1=CC=C(C=C1)CN)=O
product | 6-chloro-4-hydroxy-2-(4-methoxycarbonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1O)Cl)=O)CC1=CC=C(C=C1)C(=O)OC | C20H16ClNO6
